US03931181
Preparation of α-(2,4-diamino-5-pyrimidinyl)-2,6-dimethoxy-p-toluic acid ethyl ester
2.0 G. of α-(2,4-diamino-5-pyrimidinyl)-2,6-dimethoxy-p-toluic acid methyl ester were added to a solution of about 100 mg. of sodium metal in 200 ml. of absolute ethanol. The solution was heated at reflux for 48 hours and filtered. The filtrate was concentrated to 1/4 and cooled. The precipitated α-(2,4-diamino-5-pyrimidinyl)-2,6-dimethoxy-p-toluic acid ethyl ester was removed by filtration under vacuum and recrystallized from ethanol, m.p. 201°-202°.

reactant | α-(2,4-diamino-5-pyrimidinyl)-2,6-dimethoxy-p-toluic acid methyl ester | COC(=O)C1=CC(=C(C(=C1)OC)CC=1C(=NC(=NC1)N)N)OC | C15H18N4O4
reactant | sodium | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
product | α-(2,4-diamino-5-pyrimidinyl)-2,6-dimethoxy-p-toluic acid ethyl ester | C(C)OC(=O)C1=CC(=C(C(=C1)OC)CC=1C(=NC(=NC1)N)N)OC | C16H20N4O4
